data/mechanism_extracts/ChinJCatal/10.1016_S1872-2067(23)64510-3.json
{"doi": "10.1016_S1872-2067(23)64510-3", "journal": "ChinJCatal", "is_review": false, "rxn_class_summary": "Cp2Fe-mediated electrochemical regioselective ortho-(4+2) cyclization and ipso-(3+2) spirocyclization of benzylic malonates with alkenes and alkynes to give tetrahydronaphthalenes and spirocarbocycles", "mechanism_family": ["radical_anodic", "mediator_anodic", "electrocatalysis_outer_sphere", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of Cp2Fe to Cp2Fe+ mediator, which oxidizes the deprotonated malonate anion via single-electron transfer to generate a malonyl C-radical; cathode reduces MeOH to MeO- and H2", "key_intermediates": [{"name": "Cp2Fe+ (ferrocenium) mediator", "smiles": null, "role": "reactive"}, {"name": "malonate anion (deprotonated benzylic malonate)", "smiles": null, "role": "transient"}, {"name": "benzylic malonyl C-centered radical (I)", "smiles": null, "role": "reactive"}, {"name": "alkyl radical adduct II (from addition to alkene)", "smiles": null, "role": "reactive"}, {"name": "vinyl radical adduct III (from addition to alkyne)", "smiles": null, "role": "reactive"}, {"name": "cyclohexadienyl radical IV (after ortho-(4+2) cyclization onto aryl)", "smiles": null, "role": "transient"}, {"name": "spirocyclic cyclohexadienyl radical V (after ipso-(3+2) cyclization)", "smiles": null, "role": "transient"}, {"name": "spirocyclic cation VI (after SET oxidation of V)", "smiles": null, "role": "transient"}, {"name": "dimethoxy spirocyclic intermediate VII (MeO- trapping of VI)", "smiles": null, "role": "transient"}], "electron_flow": "Anode oxidizes Cp2Fe to Cp2Fe+ while cathode reduces MeOH to MeO- + H2; MeO- deprotonates the benzylic malonate, and Cp2Fe+ oxidizes the anion by SET to a malonyl radical that adds to alkene/alkyne. The resulting alkyl radical undergoes ortho-(4+2) cyclization (giving cyclohexadienyl radical, then anodic oxidation/deprotonation to product), whereas the vinyl radical undergoes ipso-(3+2) spirocyclization followed by SET oxidation to a cation that is captured by MeO-/H2O to give the dienone.", "rate_determining_step": "SET oxidation/radical addition step: TS-1 (18.8 kcal/mol) for alkene pathway and TS-4 (17.1 kcal/mol) for alkyne pathway are the highest barriers; cyclization regiochemistry controlled by TS-3 vs TS-2 (alkyl, ortho favored by 2.0 kcal/mol) and TS-5 vs TS-6 (vinyl, ipso favored by 5.7 kcal/mol)", "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction completely suppressed with 2.0 equiv, supporting radical pathway"}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Reaction completely suppressed with 2.0 equiv"}, {"name": "2-methylthiophene", "smiles": "Cc1ccc(s1)", "purpose": "intermediate_trap", "observation": "Captured the malonyl radical giving 5-thiophenyl adduct in 39% yield, confirming carbon radical"}, {"name": "H2-18O", "smiles": null, "purpose": "isotope_label", "observation": "18O exclusively incorporated into carbonyl of spiro product 22 (18O:16O > 20:1), indicating carbonyl O comes from water, not methoxy/MeOH"}, {"name": "Cp2FePF6 (stoichiometric)", "smiles": null, "purpose": "redox_probe", "observation": "As stoichiometric chemical oxidant, gave spiro 22 in 15% yield, supporting Cp2Fe+ as active oxidant"}, {"name": "no electricity control", "smiles": null, "purpose": "other", "observation": "No product formed without current"}, {"name": "no Cp2Fe control", "smiles": null, "purpose": "other", "observation": "No product formed without ferrocene mediator"}, {"name": "absence of alkene/alkyne", "smiles": null, "purpose": "intermediate_trap", "observation": "Homo-coupling dimer of malonate formed in 33% yield, consistent with malonyl radical"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "H/D_labeling", "cyclic_voltammetry", "DFT", "stoichiometric_intermediate", "on/off_light_or_current"], "evidence_strength": "strong", "notes": "Regiodivergence is substrate-controlled: alkyl (sp3) radical from alkene addition prefers ortho-(4+2) cyclization (interaction energy dominant, ΔΔEint = -10.2), while vinyl (sp2) radical from alkyne addition prefers ipso-(3+2) spirocyclization (distortion energy dominant). 7-Cl-dimethoxy intermediate (product 28) was isolated rather than the oxo-product, providing evidence for the cation VI / dimethoxy VII pathway prior to hydrolysis to dienone. Cp2Fe acts as outer-sphere SET mediator, confirmed by CV showing catalytic current only with Cp2Fe + 1a + NaOMe."}
